US07632928B2
Synthesis of 5-(5-Morpholinomethyl-2-oxo-oxazolidin-3-ylimino)-4-oxo-pent-2-enenitrile (Furaltadone metabolite, FTDM, 4):
A solution of 5-azido-2-furaldehyde (33 mg, 0.24 mmole) in 2 ml of ethanol was added dropwise to a solution of 5-morpholinomethyl-3-amino-2-oxazolidone (Sigma, 43 mg, 0.21 mmole) in 2.5 ml of ethanol:water (5:1) mixture, followed by 0.5 ml of 1N HCl. The reaction mix was stirred at room temperature overnight and evaporated to dryness. The residue was partitioned between 20 ml of ethyl acetate and 10 ml of 2% sodium bicarbonate. The ethyl acetate layer was kept and the aqueous layer extracted with 2×15 ml of ethyl acetate. The combined organic layer was dried over sodium sulfate, filtered and evaporated to dryness. (51 mg, 0.17 mmole, 83% yield). Silica gel TLC analysis showed a homogeneous single spot with Rf of 0.44 when developed in ethyl acetate. 1H NMR analysis of 4 revealed that it is a mixture of two isomers with the acrylonitrile moiety in cis (Z) and trans (E)-configurations (coupling constant J=11.6 and 16.5 Hz, respectively).

reactant | 5-azido-2-furaldehyde | 0.24 mmole, 33 mg | N(=[N+]=[N-])C1=CC=C(O1)C=O | C5H3N3O2
reactant | 5-morpholinomethyl-3-amino-2-oxazolidone | 0.21 mmole, 43 mg | O1CCN(CC1)CC1C(N([CH-]O1)N)=O
reactant | HCl | 1N, 0.5 ml | Cl | ClH
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethanol water | 2.5 ml | C(C)O.O
product | 5-(5-Morpholinomethyl-2-oxo-oxazolidin-3-ylimino)-4-oxo-pent-2-enenitrile | 83% yield | O1CCN(CC1)CC1CN(C(O1)=O)N=CC(C=CC#N)=O | C13H16N4O4
